US07655679B2
5.15 g (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid were dissolved in a mixture of 250 ml tetrahydrofuran and 125 ml methanol. 510 mg palladium on charcoal (10%) were added and the reaction mixture was stirred under a hydrogen atmosphere overnight. The catalyst was filtered off over a celite pad. The solvent was removed in vacuo to obtain 5.2 g 3-(4-Cyano-3-methyl-phenyl)-propionic acid as a white solid.

reactant | (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid | 5.15 g | C(#N)C1=C(C=C(C=C1)/C=C/C(=O)O)C | C11H9NO2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | methanol | 125 ml | CO | CH4O
catalyst | palladium on charcoal | 510 mg | [Pd] | Pd
product | 3-(4-Cyano-3-methyl-phenyl)-propionic acid | 5.2 g | C(#N)C1=C(C=C(C=C1)CCC(=O)O)C | C11H11NO2
